US07772227B2
To a solution of quinoline (11.84 ml, 100 mmol) in chlorobenzene (300 ml) was added sequentially water (300 ml), cyclohexanecarboxylic acid (35.88 g, 280 mmol), silver nitrate (1.36 g, 8.0 mmol), ammonium persulfate (22.82 g, 100 mmol) and trifluoroacetic acid (7.67 g, 100 mmol). The mixture was heated to 140° C. with stirring for 3 h. The mixture was then cooled to room temperature, basified with solid sodium hydroxide and the solvent removed in vacuo. The residue was then subjected to a continuous extraction with isohexane for 18 h, the solvent evaporated under reduced pressure and the residue purified by flash chromatography eluting with 20% (v/v) ethyl acetate in isohexane to afford 2-cyclohexylquinoline as a yellow oil (2.66 g, 12.61 mmol).

reactant | quinoline | 100 mmol, 11.84 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | cyclohexanecarboxylic acid | 280 mmol, 35.88 g | C1(CCCCC1)C(=O)O | C7H12O2
reactant | ammonium persulfate | 100 mmol, 22.82 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | trifluoroacetic acid | 100 mmol, 7.67 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | chlorobenzene | 300 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | silver nitrate | 8.0 mmol, 1.36 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 300 ml | O | H2O
product | 2-cyclohexylquinoline | 12.61 mmol, 2.66 g | C1(CCCCC1)C1=NC2=CC=CC=C2C=C1 | C15H17N
